* basic SPICE subcircuit for modeling a SPDT switch

.subckt SPDT pol1 com pol2 params: swpos=1 ron=1m roff=1g
R1 pol1 com {((swpos >= 1) ? ron : roff)}
R2 com pol2 {((swpos >= 1) ? roff : ron)}
.ends
